US05516774
N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)-2-chlorophenyl]-2-methylbenzamide
To a mixture of 1.38 g of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine, 1.11 g of N,N-diisopropylethylamine in 50 ml of dichloromethane is added 2.61 g of 4-[(2-methylbenzoyl)amino]-3-chlorobenzoyl chloride in 25 ml of dichloromethane. The mixture is stirred at room temperature overnight and then washed with H2O and saturated NaHCO3. The organic layer is dried (Na2SO4) and passed through a pad of hydrous magnesium silicate. The filtrate is concentrated, the residue (4.0 g) dissolved in dichloromethane and again filtered through a pad of hydrous magnesium silicate. The filtrate is evaporated to give the product as a glass (3.62 g). A 1.8 g sample of the glass is crystallized from ethyl acetate to give 1.4 g of crystals, m.p. 176°-178° C.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 1.38 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | N,N-diisopropylethylamine | 1.11 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-[(2-methylbenzoyl)amino]-3-chlorobenzoyl chloride | 2.61 g | CC1=C(C(=O)NC2=C(C=C(C(=O)Cl)C=C2)Cl)C=CC=C1 | C15H11Cl2NO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-[4-(5H-Pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)ylcarbonyl)-2-chlorophenyl]-2-methylbenzamide | 3.62 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC(=C(C=C1)NC(C1=C(C=CC=C1)C)=O)Cl | C27H22ClN3O2
